US07872014B2
A suspension of difluoroboranylium {8-[(methyloxy)carbonyl]-2,3-dihydro-1,4-benzodioxin-6-yl}diazenide (1.0 g, 3.46 mmol) in 1,2,4-trichlorobenzene (10 mL) was heated to 110° C. and allowed to stir for 3 h. The reaction mixture was then cooled to room temperature and purified immediately by flash column chromatography (SiO2, 100% hexanes, 30% ethyl acetate/hexanes) to yield 400 mg (54%) of methyl 7-fluoro-2,3-dihydro-1,4-benzodioxine-5-carboxylate as a white powder: 1H NMR (400 MHz, CDCl3): 7.11 (dd, J=3.2, 8.8 Hz, 1H), 6.78 (dd, J=3.2, 8.8 Hz, 1H), 4.35-4.28 (m, 4H), 3.89 (s, 3H).

reactant | difluoroboranylium {8-[(methyloxy)carbonyl]-2,3-dihydro-1,4-benzodioxin-6-yl}diazenide | 3.46 mmol, 1.0 g | COC(=O)C1=CC(=CC2=C1OCCO2)N=[N-].F[B+]F
solvent | 1,2,4-trichlorobenzene | 10 mL | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | methyl 7-fluoro-2,3-dihydro-1,4-benzodioxine-5-carboxylate | 400 mg, 54% | FC=1C=C(C2=C(OCCO2)C1)C(=O)OC | C10H9FO4
